US04727073
To a mixture of 6-methyl-5-(1-piperazinylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine dihydrochloride (1 g), dichloromethane (10 ml) and triethylamine (0.48 g), was added 2-furoyl chloride (0.31 g) at 5° C. under ice cooling. After stirring for 1 hour at the same temperature, the reaction mixture was concentrated under reduced pressure. The residue was suspended in water and adjusted to pH=9 with aqueous saturated sodium hydrogen carbonate. The precipitate was collected by filtration, washed with water and dried in vacuo to give 6-methyl-5-[4-(2-furoyl)piperazin-1-ylmethyl]-4-(3-nitrophenyl)-2-phenylpyrimidine (1.02 g).

reactant | 6-methyl-5-(1-piperazinylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine dihydrochloride | 1 g | Cl.Cl.CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1CCNCC1
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 2-furoyl chloride | 0.31 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
product | 6-methyl-5-[4-(2-furoyl)piperazin-1-ylmethyl]-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.02 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1CCN(CC1)C(=O)C=1OC=CC1 | C27H25N5O4
